US06124314
{3-[(Propane-1-sulfonylamino)-methyl]-phenyl}-acetic acid methyl ester
Following the procedure described in Preparation 8, (3-aminomethyl-phenyl)-acetic acid methyl ester hydrochloride (603 mg, 2.80 mmol) was converted to the title sulfonamide by reaction with 1-propanesulfonyl chloride (0.375 mL) and N,N-diisopropylethylamine (2.0 mL) in dichloroethane (10 mL). 1H NMR (400 MHz, CDCl3) δ 7.35-7.22 (m, 4H), 4.60 (bs, 1H), 4.29 (s, 2H), 3.70 (s, 3H), 3.63 (s, 2H), 2.92 (t, 2H), 1.79 (m, 2H), 0.99 (t, 3H).

reactant | (3-aminomethyl-phenyl)-acetic acid methyl ester hydrochloride | 2.80 mmol, 603 mg | Cl.COC(CC1=CC(=CC=C1)CN)=O
reactant | 1-propanesulfonyl chloride | 0.375 mL | C(CC)S(=O)(=O)Cl | C3H7ClO2S
reactant | N,N-diisopropylethylamine | 2.0 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloroethane | 10 mL | ClC(C)Cl | C2H4Cl2
product | {3-[(Propane-1-sulfonylamino)-methyl]-phenyl}-acetic acid methyl ester | COC(CC1=CC(=CC=C1)CNS(=O)(=O)CCC)=O | C13H19NO4S
